** sch_path: /home/benedikt/heichips26-FAIf/macros/heichips26_analog_project/macros/opamp/testbenches/xschem/opa_ver2_Csamp_slew_tb_tran.sch
**.subckt opa_ver2_Csamp_slew_tb_tran
VVPSU VPSU GND 3.3
I0 net2 GND 25e-9
VPLUS oa_plus GND 1.65 pulse 1 2.3 0 100n 100n 10u 20u ac 1 0
R2 oa_output GND 100e6
C1 oa_output GND 10e-12
Vmeas oa_output oa_minus 0
.save i(vmeas)
VPLUS1 opamp_disable GND 0 pulse 0 3.3 25u 50n 50n 50u 100u
XM1 net4 net2 VPSU VPSU sg13_hv_pmos w=1.2u l=0.4u ng=1 m=1 mm_ok=1
XM2 net2 net2 VPSU VPSU sg13_hv_pmos w=1.2u l=0.4u ng=1 m=1 mm_ok=1
V1 net3 GND 1.65 SIN 1.65 1 100k 1ns 0 0
S1 net3 oa_output opamp_disable GND SW1
Vmeas1 VPSU net1 0
.save i(vmeas1)
x1 net1 net4 oa_minus oa_output oa_plus GND opamp_disable op_amp_ver_2
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerCAP.lib cap_typ



.options savecurrents
*.include tb_op_amp.save
.control
  save all
  optran 1 1 1 100n 10u 0
  * Static Operation Point Analysis
  op
  let power=-V(VPSU) * I(VVPSU)
  settype power power
  write op_amp_ver_2_tb_tran.raw
  set appendwrite
  * Transient Analysis using PULSE in VPLUS, switching a signal hard
  tran 1n 100u
  let power=-V(VPSU) * I(VVPSU)
  settype power power
  write op_amp_ver_2_tb_tran.raw
  exit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  op_amp_ver_2.sym # of pins=7
** sym_path: /home/benedikt/heichips26-FAIf/macros/heichips26_analog_project/macros/opamp/schematic/xschem/op_amp_ver_2.sym
** sch_path: /home/benedikt/heichips26-FAIf/macros/heichips26_analog_project/macros/opamp/schematic/xschem/op_amp_ver_2.sch
.subckt op_amp_ver_2 POAVDD IOAIREF IOAM OOA IOAP POAVSS IOADISABLE
*.iopin POAVDD
*.ipin IOAM
*.ipin IOAP
*.opin OOA
*.ipin IOAIREF
*.iopin POAVSS
*.ipin IOADISABLE
XMP13 net1 net1 POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=1 mm_ok=1
XMP14 ptlg ptlg net1 POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=1 mm_ok=1
XMN16 ptlg ncasc net2 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMN13 net2 nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMN18 ntlg ntlg net3 POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMN17 net3 net3 POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMP10 net11 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMP12 ntlg pcasc net11 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMP1 net9 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=4 mm_ok=1
XMP2 net10 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=4 mm_ok=1
XMN1 net9 IOAM net5 POAVSS sg13_hv_nmos w=4.8u l=0.45u ng=1 m=1 mm_ok=1
XMN2 net10 IOAP net5 POAVSS sg13_hv_nmos w=4.8u l=0.45u ng=1 m=1 mm_ok=1
XMN3 net4 nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=8 mm_ok=1
XMN6 net5 ncasc net4 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=8 mm_ok=1
XMN7 net8 ncasc net7 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=8 mm_ok=1
XMN8 ndrive ncasc net6 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=8 mm_ok=1
XMN4 net7 net8 POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=8 mm_ok=1
XMN5 net6 net8 POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=8 mm_ok=1
XMP3 net9 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=4 mm_ok=1
XMP5 net8 pcasc net9 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=8 mm_ok=1
XMP4 net10 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=4 mm_ok=1
XMP6 pdrive pcasc net10 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=8 mm_ok=1
XMP7 ndrive ptlg pdrive POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=4 mm_ok=1
XMN9 pdrive ntlg ndrive POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=4 mm_ok=1
XMP8 OOA pdrive POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=40 mm_ok=1
XMN10 OOA ndrive POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=40 mm_ok=1
XMN20 IOAIREF IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMN21 pcasc IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMN22 pbias IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMN23 net19 ncasc POAVSS POAVSS sg13_hv_nmos w=0.4u l=10u ng=1 m=1 mm_ok=1
XMN25 net13 nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMN24 ncasc ncasc net22 POAVSS sg13_hv_nmos w=0.4u l=10u ng=1 m=1 mm_ok=1
XMN26 nbias ncasc net13 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMP21 pcasc pcasc net18 POAVDD sg13_hv_pmos w=1u l=10u ng=1 m=1 mm_ok=1
XMP20 net18 pcasc net17 POAVDD sg13_hv_pmos w=1u l=10.0u ng=1 m=1 mm_ok=1
XMP22 net12 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMP25 pbias pcasc net12 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMP26 ncasc pcasc net15 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMP23 net15 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMP24 net14 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMP27 nbias pcasc net14 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMP16 net17 pcasc net16 POAVDD sg13_hv_pmos w=1u l=10.0u ng=1 m=1 mm_ok=1
XMN11 net20 ncasc net19 POAVSS sg13_hv_nmos w=0.4u l=10u ng=1 m=1 mm_ok=1
XMP28 net16 pcasc POAVDD POAVDD sg13_hv_pmos w=1u l=10.0u ng=1 m=1 mm_ok=1
XMN12 net21 ncasc net20 POAVSS sg13_hv_nmos w=0.4u l=10u ng=1 m=1 mm_ok=1
XMN14 net22 ncasc net21 POAVSS sg13_hv_nmos w=0.4u l=10u ng=1 m=1 mm_ok=1
XMDP1 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMDP2 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMDOP1 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDOP2 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDOP3 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDOP4 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDN1 POAVSS nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDN2 POAVSS nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDON1 nIOADISABLE IOADISABLE POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMDON2 ntlg IOADISABLE POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMDON3 ndrive IOADISABLE POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMDON4 IOAIREF IOADISABLE POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMDP7 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMDP8 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMDN7 POAVSS nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDN8 POAVSS nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDN9 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN10 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN11 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN12 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN13 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=2.4u l=0.45u ng=1 m=1 mm_ok=1
XMDN14 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=2.4u l=0.45u ng=1 m=1 mm_ok=1
XMDN15 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=2.4u l=0.45u ng=1 m=1 mm_ok=1
XMDN16 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=2.4u l=0.45u ng=1 m=1 mm_ok=1
XMDN17 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN18 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN19 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN20 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN21 POAVSS IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDN22 POAVSS IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDP9 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1u l=10u ng=1 m=1 mm_ok=1
XMDN23 POAVSS ncasc POAVSS POAVSS sg13_hv_nmos w=0.4u l=10u ng=1 m=1 mm_ok=1
XMDP10 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1u l=10u ng=1 m=1 mm_ok=1
XMDN24 POAVSS ncasc POAVSS POAVSS sg13_hv_nmos w=0.4u l=10u ng=1 m=1 mm_ok=1
XMDP11 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMDP12 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMDP13 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDP14 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDN25 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDN26 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDN27 POAVSS ncasc POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMDN28 POAVSS ncasc POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMDP15 POAVDD POAVDD POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=8 mm_ok=1
XMDN29 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=8 mm_ok=1
XMDP16 POAVDD POAVDD POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=2 mm_ok=1
XMDN30 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=2 mm_ok=1
XMDP17 POAVDD POAVDD POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=8 mm_ok=1
XMDN31 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=8 mm_ok=1
XMDOP5 nIOADISABLE IOADISABLE POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDOP6 ptlg nIOADISABLE POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDOP7 pdrive nIOADISABLE POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDOP8 pcasc nIOADISABLE POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XC1 pdrive OOA cap_cmomi w=40e-6 l=14e-6 mmin=1 mmax=3 feed=double subblock=0 m=1 mm_ok=1
XC2 ndrive OOA cap_cmomi w=40e-6 l=14e-6 mmin=1 mmax=3 feed=double subblock=0 m=1 mm_ok=1
.ends

.GLOBAL GND
**** begin user architecture code
.MODEL SW1 SW
+ VT=3 VH=0.01
+ RON=1k ROFF=10G
**** end user architecture code
.end
